US04192871
21-Acetoxy-3α-hydroxy-11β-dipropylaminoacetoxy-5α-pregnan-20-one
Lead tetra-acetate (8 g) was added to a solution of 11β-dipropylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one (4 g) in benzene (144 ml) containing methanol (9.2 ml) followed by boron trifluoride etherate (22.8 ml). The mixture was kept at 10° for 4 hours and then poured into excess sodium bicarbonate solution. Extraction with ether and evaporation in vacuo of the washed and dried (sodium sulphate) organic extract afforded the product which was purified by preparative TLC in ethyl acetate-petroleum ether (1:1) and crystallisation from ether-petroleum ether to yield title compound, m.p. 159°-161°.

reactant | Lead tetra-acetate | 8 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 11β-dipropylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one | 4 g | C(CC)N(CCC)CC(=O)O[C@@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)C | C29H49NO4
reactant | boron trifluoride etherate | 22.8 ml | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 144 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 9.2 ml | CO | CH4O
product | 21-Acetoxy-3α-hydroxy-11β-dipropylaminoacetoxy-5α-pregnan-20-one | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3[C@H](C[C@]12C)OC(CN(CCC)CCC)=O)O)=O | C31H51NO6
